US07250418B2
Preparation of benzyl (3R,4S)-3-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate
Following the procedure for the preparation of benzyl (3R,4S)-3-({5-[6-(dimethylamino)-4-methylpyridin-3-yl]-3,6-diethylpyrazin-2-yl}amino)-4-ethoxypyrrolidine-1-carboxylate and but substituting 2-methyl-4-methoxy-phenyl boronic acid provided the title compound as an amorphous solid. 1H NMR (CDCl3) δ 1.04, 1.21, 2.04, 2.40, 2.65, 3.22˜3.26, 3.41, 3.52˜3.68, 3.75, 3.94, 4.03, 4.68, 5.08, 6.70, 6.74, 7.02, 7.28˜7.32; IR (liq.) 2971 (s), 2339 (w), 2166 (w), 2082 (w), 1957 (w), 1708 (s), 1564 (s), 1482 (s), 1420 (s), 1395 (s), 1349 (s), 1242 (s), 1169 (s), 1125 (s), 1096 (s) cm−1 HRMS (ESI) calcd for C30H38N4O4+H1 519.2971. found 519.2974.

reactant | benzyl (3R,4S)-3-({5-[6-(dimethylamino)-4-methylpyridin-3-yl]-3,6-diethylpyrazin-2-yl}amino)-4-ethoxypyrrolidine-1-carboxylate | CN(C1=CC(=C(C=N1)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCC1=CC=CC=C1)CC)C)C | C30H40N6O3
reactant | 2-methyl-4-methoxy-phenyl boronic acid | CC1=C(C=CC(=C1)OC)B(O)O | C8H11BO3
product | benzyl (3R,4S)-3-{[3,6-diethyl-5-(4-methoxy-2-methylphenyl)pyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate | C(C)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)OC)C)CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCC1=CC=CC=C1 | C30H38N4O4
